US08487112B2
To a solution of 2.1 g of ethyl 4-chloroacetoacetate in 12 ml of toluene is added 0.15 ml of acetic acid. At 10° C.-30° C., with cooling, 2 g of 2-chloro-5-(aminomethyl)pyridine dissolved in 4 ml of ethanol are added dropwise. Subsequently, the mixture is stirred at room temperature for 8 h and the solvent is removed under reduced pressure at temperatures of down to 35° C. 4.2 g of ethyl 4-chloro-3-([[6-chloropyridin-3-yl]methyl]amino)but-2-enecarboxylate are obtained in a purity of 86% (this corresponds to 98% yield).

reactant | ethyl 4-chloroacetoacetate | 2.1 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | acetic acid | 0.15 ml | C(C)(=O)O | C2H4O2
reactant | 2-chloro-5-(aminomethyl)pyridine | 2 g | ClC1=NC=C(C=C1)CN | C6H7ClN2
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | ethyl 4-chloro-3-([[6-chloropyridin-3-yl]methyl]amino)but-2-enecarboxylate | 4.2 g, 98% yield | ClCC(=CCC(=O)OCC)NCC=1C=NC(=CC1)Cl | C13H16Cl2N2O2
